US04052510
1 g. (5.35 mmol.) of 2,6-dichloro-3-cyano-4-methylpyridine and approximately 40 ml. of t-butylamine (distilled from sodium hydride) were heated together in a reaction bomb at 200° C. for 5 hrs. Heating for an additional 4 hrs. at the same temperature produced no further change in the reaction mixture. The reaction mixture was allowed to stand overnight and was evaporated at reduced pressure to obtain a gummy solid. The gummy solid was partitioned between water containing a trace of sodium carbonate and chloroform, and the aqueous phase was re-extracted twice with chloroform. The three chloroform phases were combined, dried over anhydrous sodium sulfate and evaporated at reduced pressure. The residue was dissolved in 10 ml. of chloroform and diluted to 70 ml. with hexane. The small amount of crystals that formed were removed by filtration and the filtrate was applied to a column of 50 ml. of silica gel packed in 20% chloroform in hexane and eluted with the same solvent mixture. The first 130 ml. of eluate contained nothing, and the next 100 ml. of eluate were evaporated to obtain 6-t-butylamino-2-chloro-3-cyano-4-methylpyridine (0.49 g.), m.p. 109° C. The next fractions, containing the desired product, were combined and evaporated at reduced pressure and hexane was added. After evaporation of the hexane at reduced pressure, the residue was allowed to crystallize in the freezer to obtain the desired product (0.362 g.), m.p. 134°-138° C.

reactant | 2,6-dichloro-3-cyano-4-methylpyridine | 5.35 mmol | ClC1=NC(=CC(=C1C#N)C)Cl | C7H4Cl2N2
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | 6-t-butylamino-2-chloro-3-cyano-4-methylpyridine | 0.49 g | C(C)(C)(C)NC1=CC(=C(C(=N1)Cl)C#N)C | C11H14ClN3
